Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]2[n:8][cH:9][cH:10][cH:11][c:12]12.[NH2:13][CH2:14][C@@H:15]1[CH2:16][C@@H:17]2[CH2:18][C@@H:19]2[N:20]1[C:21](=[O:22])[c:23]1[n:24][c:25]([NH2:26])[s:27][c:28]1-[c:29]1[cH:30][cH:31][cH:32][c:33]([F:34])[cH:35]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]2[n:8][cH:9][cH:10][cH:11][c:12]12)[NH:13][CH2:14][C@@H:15]1[CH2:16][C@@H:17]2[CH2:18][C@@H:19]2[N:20]1[C:21](=[O:22])[c:23]1[n:24][c:25]([NH2:26])[s:27][c:28]1-[c:29]1[cH:30][cH:31][cH:32][c:33]([F:34])[cH:35]1,[NH2:13][CH2:14][C@@H:15]1[CH2:16][C@@H:17]2[CH2:18][C@@H:19]2[N:20]1[C:21](=[O:22])[c:23]1[n:24][c:25]([NH2:26])[s:27][c:28]1-[c:29]1[cH:30][cH:31][cH:32][c:33]([F:34])[cH:35]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]2[n:8][cH:9][cH:10][cH:11][c:12]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]2[n:8][cH:9][cH:10][cH:11][c:12]12)[NH:13][CH2:14][C@@H:15]1[CH2:16][C@@H:17]2[CH2:18][C@@H:19]2[N:20]1[C:21](=[O:22])[c:23]1[n:24][c:25]([NH2:26])[s:27][c:28]1-[c:29]1[cH:30][cH:31][cH:32][c:33]([F:34])[cH:35]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (13, 1), ([1, 2], 2), (303, 13.1), ([13.1, 13], 13), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:34][CH2:33][N:4]([c:5]2[c:6]3[cH:7][c:8]4[c:9]([c:10]([F:11])[c:12]3[o:13][n:14]2)[N:15]2[CH2:16][C@@H:17]([CH3:18])[O:19][C@@H:20]([CH3:21])[C@@H:22]2[C:23]2([CH2:24]4)[C:25](=[O:26])[NH:27][C:28](=[O:29])[NH:30][C:31]2=[O:32])[CH2:3][CH2:2]1>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[c:6]3[cH:7][c:8]4[c:9]([c:10]([F:11])[c:12]3[o:13][n:14]2)[N:15]2[CH2:16][C@@H:17]([CH3:18])[O:19][C@@H:20]([CH3:21])[C@@H:22]2[C:23]2([CH2:24]4)[C:25](=[O:26])[NH:27][C:28](=[O:29])[NH:30][C:31]2=[O:32])[CH2:33][CH2:34]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][N:4]([c:5]2[c:6]3[cH:7][c:8]4[c:9]([c:10]([F:11])[c:12]3[o:13][n:14]2)[N:15]2[CH2:16][C@@H:17]([CH3:18])[O:19][C@@H:20]([CH3:21])[C@@H:22]2[C:23]2([CH2:24]4)[C:25](=[O:26])[NH:27][C:28](=[O:29])[NH:30][C:31]2=[O:32])[CH2:33][CH2:34]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][N:4]([c:5]2[c:6]3[cH:7][c:8]4[c:9]([c:10]([F:11])[c:12]3[o:13][n:14]2)[N:15]2[CH2:16][C@@H:17]([CH3:18])[O:19][C@@H:20]([CH3:21])[C@@H:22]2[C:23]2([CH2:24]4)[C:25](=[O:26])[NH:27][C:28](=[O:29])[NH:30][C:31]2=[O:32])[CH2:33][CH2:34]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1.[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[N:18]1[CH2:23][CH2:22][NH:21][CH2:20][CH2:19]1>>[c:1]1([N:21]2[CH2:20][CH2:19][N:18]([C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17])[CH2:23][CH2:22]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1,[CH3:11][C:12]([CH3:13])([CH3:14])[O:15][C:16](=[O:17])[N:18]1[CH2:19][CH2:20][NH:21][CH2:22][CH2:23]1.[F:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1>>[c:1]1([N:21]2[CH2:20][CH2:19][N:18]([C:16]([O:15][C:12]([CH3:11])([CH3:13])[CH3:14])=[O:17])[CH2:23][CH2:22]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][cH:7][c:8]([F:9])[cH:10]1,SNAr(ortho),"[(21, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([c:3]1[cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9][cH:10]1)=[O:11].[O:12]=[c:13]1[n:14][cH:15][c:16]([Cl:17])[cH:18][nH:19]1>>[CH2:1]([C:2]([c:3]1[cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9][cH:10]1)=[O:11])[n:19]1[c:13](=[O:12])[n:14][cH:15][c:16]([Cl:17])[cH:18]1,[Br:101][CH2:1][C:2]([c:3]1[cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9][cH:10]1)=[O:11].[O:12]=[c:13]1[n:14][cH:15][c:16]([Cl:17])[cH:18][nH:19]1>>[CH2:1]([C:2]([c:3]1[cH:4][cH:5][c:6]([C:7]#[N:8])[cH:9][cH:10]1)=[O:11])[n:19]1[c:13](=[O:12])[n:14][cH:15][c:16]([Cl:17])[cH:18]1,SN2,"[(19, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
